US08084620B2
A mixture of 4-bromo-1H-indole-2-carboxylic acid (250 mg, 1.04 mmol), pyrrolidine (0.129 mL, 1.56 mmol), and HOAT (213 mg, 1.56 mmol) in acetonitrile (5 mL) was treated with DIEA (0.364 mL, 2.08 mmol) and EDC (399 mg, 2.08 mmol) and the mixture was stirred at rt. After 18.25 h, the mixture was diluted with EtOAc, filtered to remove some tan solid, and washed sequentially with 1 M hydrochloric acid and NaHCO3 (aq), and dried and concentrated to provide (4-bromo-1H-indol-2-yl)(pyrrolidin-1-yl)methanone as a tan solid (205 mg, 67%). 1H NMR (400 MHz, DMSO-d6) δ 11.96 (s, 1H) 7.46 (d, J=7.9 Hz, 1H) 7.27 (d, J=7.5 Hz, 1H) 7.06-7.17 (m, 1H) 6.82 (s, 1H) 3.85 (t, J=6.8 Hz, 2H) 3.55 (t, J=6.8 Hz, 2H) 1.93-2.04 (m, 2H) 1.81-1.92 (m, 2H). Mass spectrum m/z 293, 295 (M+H)+.

reactant | 4-bromo-1H-indole-2-carboxylic acid | 1.04 mmol, 250 mg | BrC1=C2C=C(NC2=CC=C1)C(=O)O | C9H6BrNO2
reactant | pyrrolidine | 1.56 mmol, 0.129 mL | N1CCCC1 | C4H9N
reactant | HOAT | 1.56 mmol, 213 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIEA | 2.08 mmol, 0.364 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 2.08 mmol, 399 mg
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-bromo-1H-indol-2-yl)(pyrrolidin-1-yl)methanone | 205 mg, 67% | BrC1=C2C=C(NC2=CC=C1)C(=O)N1CCCC1 | C13H13BrN2O
